US05360815
Step 3: 7-Carbomethoxy-4-phenylcoumarin
A solution of 4-phenyl-7-trifluoromethanesulfonyloxycoumarin (1.75 g) and tetrakis (triphenylphosphine)palladium (0) (600 mg) in Et3N (1.3 mL), MeOH (15 mL) and DMSO (25 mL) was stirred under an atmosphere of carbon monoxide for 1 hr at 70° C. The mixture was then poured onto sat'd. NH4Cl solution, extracted with EtOAc, dried and evaporated. Chromatography on silica gel (30% EtOAc/hexane) yielded the title compound as a solid, m.p. 133°-135° C.

reactant | 4-phenyl-7-trifluoromethanesulfonyloxycoumarin | 1.75 g | C1(=CC=CC=C1)C1=CC(OC2=CC(=CC=C12)OS(=O)(=O)C(F)(F)F)=O | C16H9F3O5S
solvent | Et3N | 1.3 mL | CCN(CC)CC | C6H15N
solvent | MeOH | 15 mL | CO | CH4O
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
product | 7-Carbomethoxy-4-phenylcoumarin | C(=O)(OC)C1=CC=C2C(=CC(OC2=C1)=O)C1=CC=CC=C1 | C17H12O4
